US06391887B1
4-Amino-7-methoxy-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline
Analogously to Example 4, 7-methoxy-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione (150 mg, 0.64 mmol) in 7N methanolic ammonia solution (25 ml) is reacted to form 110 mg (79%) of product.

reactant | 7-methoxy-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 0.64 mmol, 150 mg | COC=1C=CC=2C3C(C(NC2C1)=S)CCC3 | C13H15NOS
reactant | ammonia | 7N, 25 ml | N | H3N
product | 4-Amino-7-methoxy-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline | 110 mg, 79% | NC1=NC=2C=C(C=CC2C2C1CCC2)OC | C13H16N2O
